US07291631B2
Using General Procedure B, reaction of {4-[(3-Phenyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester, 3,5-Dimethyl-pyridine-2-carbaldehyde and NaBH(OAc)3 gave {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(3-phenyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.03-1.21 (m, 4H), 1.44 (s, 9H), 1.89 (s, 3H), 2.24 (s, 3H), 2.29-2.40 (m, 2H), 2.76-2.90 (m, 2H), 3.63 (s, 2H), 3.79 (s, 2H), 4.85 (s, 1H), 7.09 (s, 1H), 7.26 (dd, 1H, J=7.6, 4.5 Hz), 7.54 (dd, 1H, J=7.8, 1.8 Hz), 8.08 (s, 1H), 8.60 (dd, 1H, J=4.7, 1.2 Hz). Conversion to the HBr salt gave COMPOUND 233 as a white solid (40.3 mg, 88%). 1H NMR (D2O) δ 1.36-1.52 (m, 4H), 2.33 (s, 3H), 2.46 (s, 3H), 2.58-2.69 (m, 2H), 2.79-2.91 (m, 2H), 4.09 (s, 2H), 4.33 (s, 2H), 7.38-7.47 (m, 2H), 7.54-7.63 (m, 3H), 8.03 (dd, 1H, J=7.8, 6.0 Hz), 8.14 (s, 1H), 8.36 (s, 1H), 8.48 (dd, 1H, J=8.1, 1.2 Hz), 8.79 (dd, 1H, J=5.7, 1.2 Hz); 13C NMR (D2O) δ 16.99, 17.50, 22.52, 24.92, 39.53, 53.74, 54.46, 54.73, 126.46, 129.58, 129.62, 130.23, 134.13, 136.97, 137.55, 138.16, 140.85, 141.09, 147.55, 148.07, 149.10, 150.39; ES-MS m/z 375 (M+H). Anal. Calcd. for C24H30N4.3.4 HBr. 3.1H2O: C, 40.86; H, 5.66; N, 7.94; Br, 38.51. Found: C, 40.66; H, 5.89; N, 7.82; Br, 38.79.

reactant | {4-[(3-Phenyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C1=CC=CC=C1)=O | C21H29N3O2
reactant | 3,5-Dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(3-phenyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C1=CC=CC=C1)CC1=NC=C(C=C1C)C)=O | C29H38N4O2
